US05593993
A) 2-t-Butoxycarbonylamino-3-bromopyridine
2-t-Butoxycarbonylaminopyridine (10 g, 51.5 mmol) was dissolved in tetrahydrofuran (80 mL), and cooled to -78° C. N-butyllithium (120 mmol, 80 mL of 1.49M in hexanes) was added dropwise over a period of 1 h. After stirring for an additional 15 min at -78° C. and then for 2.5 h at -10° C., the solution was recooled back down to -78° C. and 1,2-dibromoethane (77.2 mmol, 6.65 mL) was added dropwise over a period of 15 min via syringe. The solution was allowed to warm to room temperature. The reaction was quenched with 100 mL of saturated ammonium chloride and was extracted with ethyl acetate (3×). The organic layers were collected, dried over magnesium sulfate, filtered, and concentrated. The resulting solid was purified by flash chromatography on silica gel (25% ethyl acetate/hexanes) giving 4.5 g (32%) of the titled product as a light brown solid:

reactant | 2-t-Butoxycarbonylaminopyridine | 51.5 mmol, 10 g | C(C)(C)(C)OC(=O)NC1=NC=CC=C1 | C10H14N2O2
reactant | N-butyllithium | 120 mmol, 1.49M, 80 mL | [Li+].CCC[CH2-]
reactant | 1,2-dibromoethane | 77.2 mmol, 6.65 mL | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-t-Butoxycarbonylamino-3-bromopyridine | 4.5 g, 32% | C(C)(C)(C)OC(=O)NC1=NC=CC=C1Br | C10H13BrN2O2
